US08039450B2
A mixture of 5-(4-carboxy-2-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (1.95 g, 6.82 mmol) and sulfuric acid (1.5 mL) in ethanol (75 mL) was refluxed for 6 h. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure. Silica gel column (6:4 to 5:5 hexane/acetone) followed by recrystallization from diisopropyl ether gave 5-(4-Ethoxycarbonyl-2-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (1.65 g, 77%).

reactant | 5-(4-carboxy-2-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 6.82 mmol, 1.95 g | C(=O)(O)C1=CC(=C(OC=2C=CC3=C(COB3O)C2)C=C1)O | C14H11BO6
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | Water | O | H2O
reactant | ethanol | 75 mL | C(C)O | C2H6O
product | 5-(4-Ethoxycarbonyl-2-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 1.65 g, 77% | C(C)OC(=O)C1=CC(=C(OC=2C=CC3=C(COB3O)C2)C=C1)O | C16H15BO6
